US05252573
A mixture of 5-phthalimidomethyltetrazole (5 g; J. Org. Chem., 1959, 24, 1643), bis(tributyltin) oxide (11 ml) and methyl iodide (9 ml) was stirred vigorously at laboratory temperature for 3 days. The mixture was evaporated to dryness and the residue was washed with hexane and then triturated under ethanol. There was thus obtained as a white solid 1-methyl-5-phthalimidomethyltetrazole (3.1 g).

reactant | 5-phthalimidomethyltetrazole | 5 g | C1(C=2C(C(N1CC1=NN=NN1)=O)=CC=CC2)=O | C10H7N5O2
reactant | bis(tributyltin) oxide | 11 ml | CCCC[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC
reactant | methyl iodide | 9 ml | CI | CH3I
product | 1-methyl-5-phthalimidomethyltetrazole | 3.1 g | CN1N=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O | C11H9N5O2
